US07691882B2
2-(6-Amino-5-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamino)-ethanol
To a mixture of 3-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine (40 mg, 0.11 mmol) described in Example 25 and N,N-dimethylformamide (0.5 mL) were 2-hydroxyacetaldehyde (7.7 mg, 0.13 mmol), α-picoline-borane (14 mg, 0.13 mmol), and acetic acid (40 μL) at room temperature, which was stirred for 100 minutes at the same temperature. A saturated sodium hydrogencarbonate aqueous solution was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, after which the organic layer was concentrated under a reduced pressure. The residue thus obtained was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain a crude product, and then purified by NH silica gel column chromatography (ethyl acetate:methanol=50:1) to obtain the title compound (4.5 mg, 10%).

reactant | 3-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 0.11 mmol, 40 mg | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C21H19N5O2
reactant | 2-hydroxyacetaldehyde | 0.13 mmol, 7.7 mg | OCC=O | C2H4O2
reactant | α-picoline borane | 0.13 mmol, 14 mg | N1=C(C=CC=C1)C.B
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 40 μL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 2-(6-Amino-5-(3-(6-benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamino)-ethanol | 4.5 mg, 10% | NC1=C(C=CC(=N1)NCCO)C1=CC(=NO1)CC=1C=NC(=CC1)OCC1=CC=CC=C1 | C23H23N5O3
